US08067445B2
Step 3: (2S,3S,4S,5R,6S)-6-{2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetoxy}-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid
(2S,3S,4S,5R,6S)-6-{2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetoxy}-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester (0.2 mmol) in EtOAc was treated with 10% palladium on carbon (catalytic) and hydrogenated under a balloon of H2. The solution was filtered over a pad of Celite, and the filtrate was concentrated and purified by preparative HPLC to give the title compound.

reactant | (2S,3S,4S,5R,6S)-6-{2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetoxy}-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid benzyl ester | 0.2 mmol | C(C1=CC=CC=C1)OC(=O)[C@H]1O[C@H]([C@@H]([C@H]([C@@H]1O)O)O)OC(CC=1C=C(C(=CC1)OC)C1=C(C=C(C=C1)C(F)(F)F)CN(C(=O)NCC1=CC=CC=C1)CC)=O | C40H41F3N2O10
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | (2S,3S,4S,5R,6S)-6-{2-[2′-(3-Benzyl-1-ethyl-ureidomethyl)-6-methoxy-4′-trifluoromethyl-biphenyl-3-yl]-acetoxy}-3,4,5-trihydroxy-tetrahydro-pyran-2-carboxylic acid | C(C1=CC=CC=C1)NC(N(CC)CC1=C(C=CC(=C1)C(F)(F)F)C1=CC(=CC=C1OC)CC(=O)O[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)C(=O)O)O)O)O)=O | C33H35F3N2O10
